### ISSUE TITLE
RFC: simpa? should output information even if failing

### ISSUE THREAD

**Issue by YaelDillies** [leanprover/lean4#7145]
### Proposal

Consider the following MWE:
```
-- `Foo`, `Bar`, `Baz` are propeq but non-defeq propositions
def Foo : Prop := True
def Bar : Prop := True ↔ True
def Baz : Prop := (True ↔ True) ↔ True

-- Some bad pair of simp lemmas
@[simp] theorem foo_iff_bar : Foo ↔ Bar := by simp [Foo, Bar]
@[simp] theorem foo_iff_baz : Foo ↔ Baz := by simp [Foo, Baz]

-- `simpa?` won't let me know :(
example (h : Foo) : Baz := by simpa? using h
/-
type mismatch, term
  h
after simplification has type
  Bar : Prop
but is expected to have type
  Baz : Prop
-/
```

This kind of situation, where a `simpa` doesn't work because I should disable some lemma in the simpa call, is really annoying to debug because `simpa?` fails instead of telling me what lemmas it tried to use.

The only general way to debug this is to do
```
example (h : Foo) : Baz := by 
  have := h
  simp? at this ⊢
```
which is a painful code transformation to perform.

**Could `simpa?` output information about which lemmas it used even when it is failing?**

### Community Feedback

[Zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/simpa.3F.20should.20output.20information.20even.20if.20failing)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.
